US06642256B2
To a stirred solution of 2-[4-(4-fluorobenzyl)piperidin-1-yl]-N-[2-oxo-2-(2-oxo-2,3-dihydrobenzothiazol-6-yl)ethyl]acetamide (0.50 g, 1.13 mmol) in 1,4-dioxan (30 mL) was added [2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide] (Lawesson's reagent) (0.69 g, 1.70 mmol). The resulting suspension was heated at reflux for 24 hours. The reaction mixture was condensed to dryness in vacuo, redissolved in EtOAc, and washed with saturated aqueous sodium hydrogen carbonate, and saturated brine. The organic phase was dried (MgSO4) and condensed to dryness in vacuo. The material was then subject to column chromatography [silica gel, EtOAc/Heptanes (0-50% EtOAc over 60 min)] gave 6-{2-[4-(4-fluorobenzyl)piperidin-1-ylmethyl]thiazol-5-yl}-3H-benzothiazol-2-one (0.087 g, 18%) as an off-white solid:

reactant | 2-[4-(4-fluorobenzyl)piperidin-1-yl]-N-[2-oxo-2-(2-oxo-2,3-dihydrobenzothiazol-6-yl)ethyl]acetamide | 1.13 mmol, 0.50 g | FC1=CC=C(CC2CCN(CC2)CC(=O)NCC(C2=CC3=C(NC(S3)=O)C=C2)=O)C=C1 | C23H24FN3O3S
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxan | 30 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-{2-[4-(4-fluorobenzyl)piperidin-1-ylmethyl]thiazol-5-yl}-3H-benzothiazol-2-one | 0.087 g, 18% | FC1=CC=C(CC2CCN(CC2)CC=2SC(=CN2)C2=CC3=C(NC(S3)=O)C=C2)C=C1 | C23H22FN3OS2
